US08193192B2
A suspension of 5-bromo-2-methoxy-pyridine (5.9 g, 30 mmol), methyl 4-hydroxy-benzoate (4.0 g, 26 mmol), K2CO3 (4.7 g, 34 mmol), Cu powder (0.25 g, 4 mmol) and CuI (0.25 g, 1.3 mmol) in pyridine (25 ml) was refluxed for 10 h and allowed to cool to room temperature. The resulting mixture was poured in 100 g of crushed ice, neutralized with HCl to pH 7.5 and extracted with diethyl ether. The extract was evaporated in vacuo, the residue was separated by column chromatography on silica (eluent hexanes-ethyl acetate 8:1) to give 2.8 g (35%) of 4-(6-methoxy-pyridin-3-yloxy)-benzoic acid methyl ester as colorless oil.

reactant | 5-bromo-2-methoxy-pyridine | 30 mmol, 5.9 g | BrC=1C=CC(=NC1)OC | C6H6BrNO
reactant | methyl 4-hydroxy-benzoate | 26 mmol, 4.0 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | K2CO3 | 34 mmol, 4.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | Cl | ClH
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
catalyst | CuI | 1.3 mmol, 0.25 g | [Cu]I
product | 4-(6-methoxy-pyridin-3-yloxy)-benzoic acid methyl ester | 2.8 g, 35% | COC(C1=CC=C(C=C1)OC=1C=NC(=CC1)OC)=O | C14H13NO4
